* c:\fossee2\esim\library\subcircuitlibrary\sc_74lcx112\sc_74lcx112.cir

.include 4_and.sub
.include 3_and.sub
x7 net-_u1-pad5_ net-_u1-pad15_ net-_u6-pad2_ net-_u8-pad1_ 3_and
x8 net-_u1-pad5_ net-_u1-pad15_ net-_u1-pad1_ net-_u8-pad2_ 3_and
x3 net-_u4-pad2_ net-_u1-pad4_ net-_u1-pad6_ net-_u2-pad2_ 3_and
x4 net-_u1-pad1_ net-_u1-pad4_ net-_u1-pad6_ net-_u2-pad1_ 3_and
* u8  net-_u8-pad1_ net-_u8-pad2_ net-_u1-pad6_ d_nor
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u1-pad5_ d_nor
x1 net-_u1-pad6_ net-_u1-pad15_ net-_u1-pad3_ net-_u1-pad1_ net-_u4-pad1_ 4_and
* u4  net-_u4-pad1_ net-_u4-pad2_ d_inverter
x9 net-_u1-pad5_ net-_u1-pad4_ net-_u1-pad2_ net-_u1-pad1_ net-_u6-pad1_ 4_and
* u6  net-_u6-pad1_ net-_u6-pad2_ d_inverter
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ ? net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ ? port
x10 net-_u1-pad9_ net-_u1-pad14_ net-_u7-pad2_ net-_u9-pad1_ 3_and
x11 net-_u1-pad9_ net-_u1-pad14_ net-_u1-pad13_ net-_u9-pad2_ 3_and
x5 net-_u5-pad2_ net-_u1-pad10_ net-_u1-pad7_ net-_u3-pad2_ 3_and
x6 net-_u1-pad13_ net-_u1-pad10_ net-_u1-pad7_ net-_u3-pad1_ 3_and
* u9  net-_u9-pad1_ net-_u9-pad2_ net-_u1-pad7_ d_nor
* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u1-pad9_ d_nor
x2 net-_u1-pad7_ net-_u1-pad14_ net-_u1-pad11_ net-_u1-pad13_ net-_u5-pad1_ 4_and
* u5  net-_u5-pad1_ net-_u5-pad2_ d_inverter
x12 net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad12_ net-_u1-pad13_ net-_u7-pad1_ 4_and
* u7  net-_u7-pad1_ net-_u7-pad2_ d_inverter
a1 [net-_u8-pad1_ net-_u8-pad2_ ] net-_u1-pad6_ u8
a2 [net-_u2-pad1_ net-_u2-pad2_ ] net-_u1-pad5_ u2
a3 net-_u4-pad1_ net-_u4-pad2_ u4
a4 net-_u6-pad1_ net-_u6-pad2_ u6
a5 [net-_u9-pad1_ net-_u9-pad2_ ] net-_u1-pad7_ u9
a6 [net-_u3-pad1_ net-_u3-pad2_ ] net-_u1-pad9_ u3
a7 net-_u5-pad1_ net-_u5-pad2_ u5
a8 net-_u7-pad1_ net-_u7-pad2_ u7
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u8 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u2 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u6 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u9 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u3 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u7 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
